US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.78 g) and 4-(trifluoromethyl)benzyl chloride (0.48 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-({1-[(4-trifluoromethylphenyl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.84 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.78 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 4-(trifluoromethyl)benzyl chloride | 0.48 g | FC(C1=CC=C(CCl)C=C1)(F)F | C8H6ClF3
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-({1-[(4-trifluoromethylphenyl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.84 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC1=CC=C(C=C1)C(F)(F)F)C=1C=NC(=CC1)C(C)C | C38H37F3N4O2
